US09107964B2
86 mg (0.15 mmol equivalents) of 5-(t-butyldiphenylsiloxymethyl)-2,2-dimethyl-5-[(4-methoxymethoxymethyl-2-nitro-1H-imidazol-1-yl)methyl]-1,3-dioxane was dissolved in 1.0 mL of tetrahydrofuran, 0.17 mL (1 mol/L solution, 0.17 mmol equivalents) of a solution of tetrabutylammonium fluoride in tetrahydrofuran was added thereto, and the mixture was stirred at room temperature (25° C.) for 10 minutes. After completion of the reaction, the solvent was removed by distillation, and the obtained crude product was purified by silica gel column chromatography (eluent: hexane/ethyl acetate (v/v)=1/1) to give 47 mg (0.14 mmol equivalents) of 2,2-dimethyl-5-hydroxymethyl-5-{(4-methoxymethoxymethyl-2-nitro-1H-imidazol-1-yl)methyl}-1,3-dioxane.

reactant | 5-(t-butyldiphenylsiloxymethyl)-2,2-dimethyl-5-[(4-methoxymethoxymethyl-2-nitro-1H-imidazol-1-yl)methyl]-1,3-dioxane | 0.15 mmol, 86 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC1(COC(OC1)(C)C)CN1C(=NC(=C1)COCOC)[N+](=O)[O-] | C30H41N3O7Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | 2,2-dimethyl-5-hydroxymethyl-5-{(4-methoxymethoxymethyl-2-nitro-1H-imidazol-1-yl)methyl}-1,3-dioxane | 0.14 mmol, 47 mg | CC1(OCC(CO1)(CN1C(=NC(=C1)COCOC)[N+](=O)[O-])CO)C | C14H23N3O7
